US06352798B1
1-bromo-3,5-difluorobenzene (38.6 g, 0.2 mol) was added slowly to a mixture of magnesium turnings (4.8 g, 0.2 mol) in 200 ml anhydrous ethyl ether. After the reaction mixture was refluxed for 2 hrs, trimethyltin chloride (40 g, 0.2 mol) was dropped in to the solution and kept refluxing for one more hour. Then the reaction mixture was hydrolyzed by saturated ammonium chloride. The organic layer of 3,5-difluorophenyltrimethyltin was separated and purified by distillation in a 62% yield. Then the 3,5-difluorophenyltrimethyltin (11 g, 0.04 mol) was reacted with boron trichloride (11 g, 0.093 mol) in a sealed tube at 0° C. for 1 hr and at room temperature for 12 hrs. Dichloro-3,5-difluorophenylborane (6.3 g, 0.032 mol) was obtained from the reaction in 81% yield. Dichloro-3,5-difluorophenylborane (5.84 g, 0.03 mol) was added into a solution containing perfluoropinacol (10 g, 0.03 mol) in 50 ml anhydrous chloroform at −40° C. Then the reaction mixture was stirred continuously at room temperature for 4 hrs. Then the insoluble material was filtered off from the solution. The chloroform solvent was removed by evaporation. The pure product compound 4 (10 g, 0.022 mol) was obtained by distillation of the residue in 73% yield. Boiling point: 80° C./14 mm-Hg. NMR (CDCl3 ppm) δ: 6.9-7.4 (m, 1H), 7.35-7.7 (m, 2H). IR (neat cm−1), ν 3092.0, 1593.8, 1480.6, 1432.0, 1388.2, 1248.9, 1109.8, 1080.5, 986.9, 952.8, 889.6, 870.4, 748.2, 721.8.

reactant | 1-bromo-3,5-difluorobenzene | 0.2 mol, 38.6 g | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | magnesium | 0.2 mol, 4.8 g | [Mg] | Mg
reactant | trimethyltin chloride | 0.2 mol, 40 g | C[Sn](C)(C)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 3,5-difluorophenyltrimethyltin | 0.04 mol, 11 g | FC=1C=C(C=C(C1)F)[Sn](C)(C)C
reactant | boron trichloride | 0.093 mol, 11 g | B(Cl)(Cl)Cl | BCl3
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | Dichloro-3,5-difluorophenylborane | 0.032 mol, 6.3 g, 81% yield | ClB(C1=CC(=CC(=C1)F)F)Cl | C6H3BCl2F2
